US03989745
A mixture of 4-benzoyl-3-benzyloxy-5-chloroacetamidobenzoic acid (0.85 g) and 20% w/w aqueous dimethylamine (10 ml) is left at room temperature for 20 hours and is then evaporated in vacuo. The residue is triturated with conc. hydrochloric acid (about 5 ml) and the resulting precipitate is collected by filtration and dried. After recrystallization from methyl cellosolve, 4-benzoyl-3-benzyloxy-5-dimethylaminoacetamidobenzoic acid hydrochloride is obtained with a melting point of 264.5°-265.5° C.

reactant | 4-benzoyl-3-benzyloxy-5-chloroacetamidobenzoic acid | 0.85 g | C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1NC(CCl)=O)OCC1=CC=CC=C1 | C23H18ClNO5
reactant | dimethylamine | 10 ml | CNC | C2H7N
product | 4-benzoyl-3-benzyloxy-5-dimethylaminoacetamidobenzoic acid hydrochloride | Cl.C(C1=CC=CC=C1)(=O)C1=C(C=C(C(=O)O)C=C1NC(CN(C)C)=O)OCC1=CC=CC=C1 | InChI=1S/C25H24N2O5.ClH/c1-27(2)15-22(28)26-20-13-19(25(30)31)14-21(32-16-17-9-5-3-6-10-17)23(20)24(29)18-11-7-4-8-12-18;/h3-14H,15-16H2,1-2H3,(H,26,28)(H,30,31);1H
